### PR TITLE
feat: The property of being strongly measurable on the product space is stable

### PR DESCRIPTION
**Pull request by nick-kuhn**
This provides the proof of a lemma that was created in the course of #312. 
Update: It was decided not to add a definition for `JointlyStronglyMeasurable`. The PR has been updated accordingly and proves stability directly.

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/ClassD.lean [hunk 1]
```diff
@@ -194,6 +194,23 @@ section LinearOrder
 
 variable [LinearOrder ι] {𝓕 : Filtration ι mΩ}
 
+lemma isStable_jointlyStronglyMeasurable [OrderBot ι] [TopologicalSpace ι]
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/ClassD.lean]:
```suggestion
lemma isStable_stronglyMeasurable_uncurry [OrderBot ι] [TopologicalSpace ι]
```

File: BrownianMotion/StochasticIntegral/ClassD.lean [hunk 2]
```diff
@@ -194,6 +194,23 @@ section LinearOrder
...
+  have h_eq : uncurry (stoppedProcess (fun i ↦ {ω | ⊥ < τ ω}.indicator (X i)) τ) =
+      {p | ⊥ < τ p.2}.indicator (uncurry X ∘ M) := by
+    ext ⟨t, ω⟩
+    simp only
+        [uncurry, stoppedProcess, Set.indicator_apply, Set.mem_setOf_eq, Function.comp_apply, M]
+  rw [h_eq]
+  exact StronglyMeasurable.indicator (hX.comp_measurable hM)
+    (measurableSet_lt measurable_const (hτ.measurable'.comp measurable_snd))
+
+
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/ClassD.lean]:
```suggestion
```
